US07132559B2
A mixture of (2S,4R)-, (2R,4S)-N-Boc-5,5,5-trifluoroleucinol (330 mg, 1.23 mmol), PDC (4.62 g, 12.3 mmol), and dry DMF (2.5 mL) was stirred at room temperature under argon for 4 h, then diluted with 50 mL of ethyl acetate and 50 mL of water. The organic layer was washed with 30 mL of 1N HCl and 2×30 mL of water, dried over MgSO4, and concentrated to give 198 mg of (2S,4R)-, (2R,4S)-N-Boc-5,5,5-trifluoroleucine as a pale-brownish oil (60%).

reactant | (2R,4S)-N-Boc-5,5,5-trifluoroleucinol | 1.23 mmol, 330 mg | C(=O)(OC(C)(C)C)N[C@H](C[C@H](C)C(F)(F)F)CO | C11H20F3NO3
reactant | PDC | 12.3 mmol, 4.62 g | C1=CC=[NH+]C=C1.C1=CC=[NH+]C=C1.[O-][Cr](=O)(=O)O[Cr](=O)(=O)[O-]
reactant | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
product | (2R,4S)-N-Boc-5,5,5-trifluoroleucine | 60% | C(=O)(OC(C)(C)C)N[C@H](C[C@H](C)C(F)(F)F)C(=O)O | C11H18F3NO4
